US05071853
Methyl 1,3,4,9,10,10a-hexahydro-4a(2H)-phenanthrene carboxylate
A solution of cis-1,9,10,10a-tetrahydro-4a(4H)-phenanthrenecarboxylic acid (25 g, 0.11 mole) and dimethylsulfate (11.4 ml, 0.12 mole) in 75 ml acetone was treated with potassium carbonate (20.7 g, 0.15 mole) and stirred overnight. An additional 5 ml dimethylsulfate was added and the reaction mixture was refluxed for 1 hour. After cooling the potassium carbonate was removed by filtration and the filtrate evaporated to give the title compound (27 g, quantitative).

reactant | cis-1,9,10,10a-tetrahydro-4a(4H)-phenanthrenecarboxylic acid | 0.11 mole, 25 g | C1C=CC[C@@]2(C3=CC=CC=C3CC[C@H]12)C(=O)O | C15H16O2
reactant | dimethylsulfate | 0.12 mole, 11.4 ml | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 0.15 mole, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfate | 5 ml | COS(=O)(=O)OC | C2H6O4S
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | Methyl 1,3,4,9,10,10a-hexahydro-4a(2H)-phenanthrene carboxylate | 27 g | C1CCCC2(C3=CC=CC=C3CCC12)C(=O)OC | C16H20O2
